US04239769
N-[(2-Thienyl)methyl]pyrrolidine
Lithium aluminium hydride (9.6 g) was added to N-(2-thienylcarbonyl)pyrrolidine (35.4 g) in ether. After 41/2 hr the reaction was quenched with water and extracted with chloroform. Evaporation of the organic extracts gave an oil which was distilled under reduced pressure (21.5 g) b.p. 60°-70° (10-16 mm). TLC silica/ethyl acetate, methanol, Rf 0.7.

reactant | Lithium aluminium hydride | 9.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-(2-thienylcarbonyl)pyrrolidine | 35.4 g | S1C(=CC=C1)C(=O)N1CCCC1 | C9H11NOS
solvent | ether | CCOCC | C4H10O
product | N-[(2-Thienyl)methyl]pyrrolidine | S1C(=CC=C1)CN1CCCC1 | C9H13NS
